US04267179
A mixture of 9 parts of 4-{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}-4H-1,2,4-triazole-3-thiol, 2 parts of sodium hydroxide and 160 parts of methanol is stirred and warmed till all solid enters solution. Then there are added 3.3 parts of dimethyl sulfate and stirring is continued for 3 hours at room temperature. The reaction mixture is poured onto water. The precipitated product is filtered off and crystallized from 1-butanol, yielding 5.3 parts of 1-(4-methoxyphenyl)-4-{4-[3-(methylthio)4H-1,2,4-triazol-4-yl]phenyl}piperazine; mp. 180° C.

reactant | 4-{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}-4H-1,2,4-triazole-3-thiol | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(=NN=C1)S | C19H21N5OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methanol | CO | CH4O
product | 1-(4-methoxyphenyl)-4-{4-[3-(methylthio)4H-1,2,4-triazol-4-yl]phenyl}piperazine | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(=NN=C1)SC | C20H23N5OS
